US03936503
Following the procedure of Example XVI a solution of 15.8 grams (0.04 mole) of phenylstearyl bromide and 37.2 grams (0.32 mole) of hexamethylene diamine in 400 ml of ethanol was refluxed for three hours. After the same recovery procedure 15.2 grams (88.4% crude mass yield) of N-phenylstearyl hexamethylene diamine was obtained having the following analysis:

reactant | phenylstearyl bromide | 0.04 mole, 15.8 grams | C1(=CC=CC=C1)CCCCCCCCCCCCCCCCCCBr | C24H41Br
reactant | hexamethylene diamine | 0.32 mole, 37.2 grams | NCCCCCCN | C6H16N2
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | N-phenylstearyl hexamethylene diamine | C1(=CC=CC=C1)CCCCCCCCCCCCCCCCCCNCCCCCCN | C30H56N2
